US04717724
7-Hydroxy-2-(4-chlorobenzyl)-1,2,3,4-tetrahydroisoquinoline
2.9 g of 7-hydroxyisoquinoline are heated under reflux for 8 hours with 3.5 g of 4-chlorobenzyl chloride in 30 ml of ethanol. After standing overnight, 5.7 g of the isoquinolinium salt crystallize out (melting point: 273°-274°). This salt is dissolved in 200 ml of methanol/water 9:1 and, with cooling, 6 g of sodium borohydride are added. After evolution of hydrogen has ended, the mixture is heated under reflux for 15 minutes. It is then concentrated to 1/3 of its volume, and this is poured into 200 ml of water, ammonium chloride is added to saturation, and the solid material which has precipitated out is filtered off. Recrystallization from ethanol gives 3.6 g of colorless crystals (67% of theory), melting point: 177°-178°.

reactant | 7-hydroxyisoquinoline | 2.9 g | OC1=CC=C2C=CN=CC2=C1 | C9H7NO
reactant | 4-chlorobenzyl chloride | 3.5 g | ClC1=CC=C(CCl)C=C1 | C7H6Cl2
solvent | ethanol | 30 ml | C(C)O | C2H6O
product | 7-Hydroxy-2-(4-chlorobenzyl)-1,2,3,4-tetrahydroisoquinoline | 3.6 g, 67% | OC1=CC=C2CCN(CC2=C1)CC1=CC=C(C=C1)Cl | C16H16ClNO
